US07291631B2
Using General Procedure B: Reaction of 3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzonitrile in CH2Cl2 with 5-chloro-3-methyl-pyridine-2-carbaldehyde and NaBH(OAc)3 gave 4-{[(5-chloro-3-methyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzonitrile as a colorless oil. 1H NMR (CDCl3) δ 1.59 (m, 1H), 2.03 (m, 2H), 2.14 (m, 1H), 2.19 (s, 3H), 2.63 (m, 1H), 2.77 (m, 1H), 3.65 (d, 1H, J=12.0 Hz), 3.73-3.83 (m, 3H), 4.20 (d, 2H, J=12.0 Hz), 4.37 (d, 1H, J=12.0 Hz), 7.03 (dd, 1H, J=7.5, 3.0 Hz), 7.15-7.46 (m, 4H), 7.65 (s, 1H), 8.28 (s, 1H), 8.34 (s, 1H).

reactant | 3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzonitrile | OCC=1C=C(C#N)C=CC1CNC1CCCC=2C=CC=NC12 | C18H19N3O
reactant | 5-chloro-3-methyl-pyridine-2-carbaldehyde | ClC=1C=C(C(=NC1)C=O)C | C7H6ClNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-{[(5-chloro-3-methyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzonitrile | ClC=1C=C(C(=NC1)CN(C1CCCC=2C=CC=NC12)CC1=C(C=C(C#N)C=C1)CO)C | C25H25ClN4O
